US07838130B2
Methyl iodide 9.88 g (69.6 mmol) was dropwise added to a mixed solution of 6.18 g (23.2 mmol) of 13H-dibenzo[a,i]fluorene, 11.72 g (104.4 mmol) of potassium t-butoxide and 100 ml of dimethylsulfoxide at 20° C. in 20 minutes, and the solution was stirred for 10 hours. After left standing overnight, 9.88 g (69.6 mmol) of methyl iodide was further dropwise added and stirred for 5 hours. Water was dropwise added to the reaction mixture, and the solution was extracted with dichloromethane. After separating the solution, the organic phase was concentrated and refined by flash chromatograph (silica gel: hexane/dichloromethane=5/1) to obtain 4.01 g (yield: 58.7%) of 13,13-dimethyl-13H-dibenzo[a,i]fluorene.

reactant | Methyl iodide | 69.6 mmol, 9.88 g | CI | CH3I
reactant | 13H-dibenzo[a,i]fluorene | 23.2 mmol, 6.18 g | C1=CC=CC=2C=CC=3C=4C=CC5=C(C4CC3C21)C=CC=C5 | C21H14
reactant | potassium t-butoxide | 104.4 mmol, 11.72 g | CC(C)([O-])C.[K+]
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | methyl iodide | 69.6 mmol, 9.88 g | CI | CH3I
solvent | Water | O | H2O
product | 13,13-dimethyl-13H-dibenzo[a,i]fluorene | 4.01 g, yield: 58.7% | CC1(C=2C3=C(C=CC2C=2C=CC4=C(C12)C=CC=C4)C=CC=C3)C | C23H18
